US05158949
4-Methoxyaniline (10.5 g) in iodobutane (50 g) was heated under reflux overnight. Excess iodobutane was distilled off and final traces were removed in vacuo. The residue in DMF (dimethyl formamide) (50 mL) was treated with DABCO (1,4-diazobicyclo[2.2.2]octane) (20 g) and the mixture heated under reflux for 2 hours. Most of the DMF was then evaporated and the residue taken up in ethyl acetate, washed well with water, and dried (Na2SO4). After evaporation of the solvent the above procedure was repeated with iodobutane (50 mL) (overnight) followed by treatment with DABCO (10 g). After work-up, the resulting oil was chromatographed on silica gel eluting with 10% ethyl acetate in hexane to give 4-methoxy-N,N-dibutylaniline (9.2 g).

reactant | 4-Methoxyaniline | 10.5 g | COC1=CC=C(N)C=C1 | C7H9NO
reactant | iodobutane | 50 g | ICCCC | C4H9I
product | 4-methoxy-N,N-dibutylaniline | 9.2 g | COC1=CC=C(N(CCCC)CCCC)C=C1 | C15H25NO
